US07977331B1
To a solution of (S)-2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionic acid (50.0 mg, 0.090 mmol) synthesized in the same manner as in Examples 2-175 and 2-180, N,O -dimethylhydroxylamine hydrochloride (10.5 mg, 0.180 mmol), 1-hydroxybenzotriazole monohydrate (15.2 mg, 0.38 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (20.7 mg, 0.108 mmol) in N,N-dimethylformamide (1 ml) was added triethylamine (25.1 μl, 0.180 mmol), and the mixture was stirred overnight at room temperature. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture. The precipitated solid was collected by filtration, further washed with water and dried in vacuo. The obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=1:4). To the obtained residue was added a mixed solvent of hexane:ethyl acetate (5:1), and the precipitated solid was collected by filtration and washed with a mixed solvent of hexane:ethyl acetate (5:1). The obtained solid was dried in vacuo to give N- [(S)-2-(4-hydroxyphenyl)-1-(N-methoxy-N-methylcarbamoyl)ethyl]-12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxamide (30.0 mg, yield 54.1%).

reactant | (S)-2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionic acid | 0.090 mmol, 50.0 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)O | C33H34N2O6
reactant | N,O -dimethylhydroxylamine hydrochloride | 0.180 mmol, 10.5 mg | Cl.CNOC
reactant | 1-hydroxybenzotriazole monohydrate | 0.38 mmol, 15.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.108 mmol, 20.7 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.180 mmol, 25.1 μl | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N- [(S)-2-(4-hydroxyphenyl)-1-(N-methoxy-N-methylcarbamoyl)ethyl]-12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxamide | 30.0 mg, yield 54.1% | OC1=CC=C(C=C1)C[C@@H](C(N(C)OC)=O)NC(=O)C=1C=CC2=C(N3CCOC4=C(C3=C2C2CCCCC2)C=CC(=C4)OC)C1 | C35H39N3O6
